US07847127B2
To a stirred solution of silver nitrate (17.5 g, 0.104 moles) dissolved in 100 ml water, 50 g (0.209 moles) trans-4-(4-chlorophenyl)cyclohexane carboxylic acid was added. To this solution acetonitrile (250 ml) was added and under stirring and heated to reflux. 33.1 g (0.209 moles) 1,4-naphthoquinone was then added. 120 g (0.525 mole) ammonium persulfate dissolved in 400 ml water was added drop-wise to the stirred solution and continued reflux for 2 hours. The reaction solution was then cooled to 0-5° C. and extracted with methylene chloride. The organic layer was first washed with water, followed by 10% sodium carbonate aqueous solution, and further with water until the pH is neutral. The organic layer was distilled to eliminate methylene chloride and was then stirred in acetonitrile and filtered. The solid obtained was crystallized from acetonitrile to obtain 15 g of trans-2-[4-(4-chlorophenyl)cyclohexyl]-1,4-naphthoquinone (20% yield). M.P. 146-149 (uncorrected), 1H NMR (400 MHz), δH (d6-CDCl3) 8.07-8.14 (2H, m, Naphth), 7.65-7.74 (2H, m, Naphth), 7.27-7.30 (2H, d, arom.), 7.07-7.19 (2H, d, arom.), 6.80 (1H, s, naphtho.), 2.98-3.01 (1H, tt, CH), 2.54-2.58 (1H, tt, CH—), 1.25-2.03 (8H, multi, CH2).

reactant | trans-4-(4-chlorophenyl)cyclohexane carboxylic acid | 0.209 moles, 50 g | ClC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)C(=O)O | C13H15ClO2
reactant | acetonitrile | 250 ml | C(C)#N | C2H3N
reactant | 1,4-naphthoquinone | 0.209 moles, 33.1 g | C1(C=CC(C2=CC=CC=C12)=O)=O | C10H6O2
reactant | ammonium persulfate | 0.525 mole, 120 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
solvent | water | 100 ml | O | H2O
solvent | water | 400 ml | O | H2O
catalyst | silver nitrate | 0.104 moles, 17.5 g | [N+](=O)([O-])[O-].[Ag+]
product | trans-2-[4-(4-chlorophenyl)cyclohexyl]-1,4-naphthoquinone | 15 g, 20% yield | ClC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)C=1C(C2=CC=CC=C2C(C1)=O)=O | C22H19ClO2
